US05731599
3) Synthesis of 1,3-bis(4-formyl-phenoxy)propane
10.0 g of 4-hydroxybenzaldehyde and 8.3 g of 1,3-dibromopropane were reacted for 24 hours in 6.2 g of potassium carbonate solution in 100 ml of DMF under reflux. The reaction mixture was poured into cold distilled water to obtain a precipitate. After filtration and vacuum drying the precipitate, the resultant was recrystallized in ethanol to obtain the white product (XII-1). The product yield was 76%.

reactant | 4-hydroxybenzaldehyde | 10.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 1,3-dibromopropane | 8.3 g | BrCCCBr | C3H6Br2
solvent | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1,3-bis(4-formyl-phenoxy)propane | yield was 76% | C(=O)C1=CC=C(OCCCOC2=CC=C(C=C2)C=O)C=C1 | C17H16O4
